US05665726
To a mixture of 5.01 g (16.1 mmol) of 4-(8-chloro-5,6-dihydro-11 H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene)piperidine, 2.19 g (15.7 mmol) of isonicotinic acid N-oxide, and 2.33 g (17.2 mmol) of 1-hydroxybenzotriazole hydrate in 30 mL of dry methylene chloride at -15° C. and under a nitrogen atmosphere was added dropwise over 25 minutes a solution of 3.26 g (16.9 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride in 60 mL of dry methylene chloride. The reaction mixture was slowly allowed to warm to room temperature. After 3 hours the mixture was poured into a solution of 10% aqueous sodium dihydrogen phosphate and extracted three times with methylene chloride. The combined organic portions were dried over MgSO4, filtered, and concentrated in vacuo to give a product which was purified via flash chromatography and recrystallized using isopropyl ether to give 1.35 gms (82%) of 1-(4-pyridinyl carbonyl)-4-(8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene)piperidine N1 -oxide as a white solid (228° C., dec).

reactant | 4-(8-chloro-5,6-dihydro-11 H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene)piperidine | 16.1 mmol, 5.01 g | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCNCC2)C1 | C19H19ClN2
reactant | isonicotinic acid N-oxide | 15.7 mmol, 2.19 g | C(C1=CC=[N+](C=C1)[O-])(=O)O | C6H5NO3
reactant | 1-hydroxybenzotriazole hydrate | 17.2 mmol, 2.33 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 16.9 mmol, 3.26 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-pyridinyl carbonyl)-4-(8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene)piperidine N1 -oxide | 1.35 gms, 82% | N1=CC=C(C=C1)C(=O)[N+]1(CCC(CC1)=C1C2=C(CCC=3C1=NC=CC3)C=C(C=C2)Cl)[O-] | C25H22ClN3O2
